US04886809
37 Grams of 6-(4-oxo-1-piperidylcarbonyl)-3,4-dihydrocarbostyril, 30.3 g of hydroxylamine.hydrochloride and 83.5 g of sodium acetate were dissolved in 600 ml of ethanol and 300 ml of water, the mixture was stirred overnight at room temperature. The crystals precipitated were collected by filtration, and recrystallized from ethanol to yield 16 g of 6-(4-hydroxylimino-1-piperidylcarbonyl)-3,4-dihydrocarbostyril. NMR (90 MHz, DMSO-d6)δppm: 2.20-2.63 (6H, m), 2.79-3.02 (2H, m), 3.20-3.68 (5H, m), 6.88 (1H, d, J=9 Hz), 7.13-7.30 (2H, m), 10.22 (1H, brs).

reactant | 6-(4-oxo-1-piperidylcarbonyl)-3,4-dihydrocarbostyril | O=C1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C15H16N2O3
reactant | hydroxylamine.hydrochloride | 30.3 g | Cl.NO
reactant | sodium acetate | 83.5 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | 6-(4-hydroxylimino-1-piperidylcarbonyl)-3,4-dihydrocarbostyril | 16 g | ON=C1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C15H17N3O3
